US09326987B2
5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine
To a solution of 6-bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (0.82 g, 1.540 mmol) in 1,4-dioxane (15 ml) and water (1.5 ml) was added 2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine (0.501 g, 2.002 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (0.225 g, 0.308 mmol) and potassium phosphate tribasic (0.981 g, 4.62 mmol). The mixture was heated at 80° C. for 2 hr, cooled and concentrated in vacuo and the residue partitioned between dichloromethane and water (20 ml), separated by hydrophobic frit and purified by silica (100 g) cartridge on Flashmaster 11, using a gradient of dichloromethane and methanol (1% triethylamine) to give the title compound as an orange solid (0.88 g).

reactant | 6-bromo-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 1.540 mmol, 0.82 g | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1C[C@H](O[C@H](C1)C)C | C22H22BrN5O4S
reactant | 2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinamine | 2.002 mmol, 0.501 g | COC1=NC=C(C=C1N)B1OC(C(O1)(C)C)(C)C | C12H19BN2O3
reactant | potassium phosphate tribasic | 4.62 mmol, 0.981 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.5 ml | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.308 mmol, 0.225 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-[4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3,4-oxadiazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinamine | 0.88 g | C[C@@H]1CN(C[C@@H](O1)C)CC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C=1C=C(C(=NC1)OC)N)S(=O)(=O)C1=CC=CC=C1 | C28H29N7O5S
